US06635633B2
H. 6-Fluoro-3-(1-{3-[5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propyl}-piperidin-4-yl)benzo[b]thiophene-2-carboxylic acid (2-hydroxy-ethyl)-amide
A stirred solution of 20 mg (0.03 mmol) of 6-fluoro-3-(1-{3-[5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propyl}-piperidin-4-yl)-benzo[b]thiophene-2-carboxylic acid in 0.3 mL of dry DMF was treated with 14 mg (0.036 mmol) of HBTU and 8 μL (0.045 mmol) of DIEA. The solution was stirred for 5 min before the addition of 0.01 mL (0.15 mmol) of ethanol amine. The reaction was stirred at room temperature for 30 min then partitioned between EtOAc (30 mL) and saturated NaHCO3 (20 mL). The aqueous layer was further extracted with EtOAc (2×20 mL). The combined organic layers were then washed with brine, dried over Na2SO4, and concentrated. Purification by column chromatography (silica, 5-10% of 2 N NH3 in MeOH/CH2Cl2) yielded 16 mg (76%) of a white solid. MS (electrospray): exact mass calculated for C33H37F4N5O4S2: 707.22; m/z found, 708.2 [M+H]+. 1H NMR (CDCl3, 400 MHz): 7.97 (br s, 1H), 7.73 and 7.66 (A and B of AB quartet, J=8.41 Hz, 4H), 7.49 (dd, J=8.41, 2.35 Hz, 1H), 7.15 (dt, J=8.61, 2.54 Hz, 1H), 6.41 (t, J=5.67 Hz, 1H), 4.56 (s, 2H), 4.16 (t, J=7.04 Hz, 2H), 3.84 (dd, J=5.28, 4.70 Hz, 2H), 3.70 (t, J=5.67 Hz, 2H), 3.62 (m, 2H), 3.58 (br s, 1H), 3.05 (br m, 2H), 2.97 (t, J=5.67 Hz, 2H), 2.91 (s, 3H), 2.40 (br m, 4H), 2.13 (br m, 4H), 1.84 (br d, J=12.32 Hz, 2H).

reactant | 6-fluoro-3-(1-{3-[5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propyl}-piperidin-4-yl)-benzo[b]thiophene-2-carboxylic acid | 0.03 mmol, 20 mg | FC=1C=CC2=C(SC(=C2C2CCN(CC2)CCCN2N=C(C=3CN(CCC32)S(=O)(=O)C)C3=CC=C(C=C3)C(F)(F)F)C(=O)O)C1 | C31H32F4N4O4S2
reactant | HBTU | 0.036 mmol, 14 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.045 mmol, 8 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | ethanol amine | 0.15 mmol, 0.01 mL | C(O)CN | C2H7NO
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
product | 6-Fluoro-3-(1-{3-[5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propyl}-piperidin-4-yl)benzo[b]thiophene-2-carboxylic acid (2-hydroxy-ethyl)-amide | 16 mg, 76% | OCCNC(=O)C1=C(C2=C(S1)C=C(C=C2)F)C2CCN(CC2)CCCN2N=C(C=1CN(CCC12)S(=O)(=O)C)C1=CC=C(C=C1)C(F)(F)F | C33H37F4N5O4S2
